US06838463B2
In 4 ml of tetrahydrofuran was suspended 0.12 g of sodium hydride (60% in oil), to which 1 ml of a tetrahydrofuran solution containing 0.28 g of cis-2-methylcyclohexanol was slowly added dropwise with stirring at 0° C. The mixture was stirred at 0° C. for 10 minutes, to which 1 ml of a tetrahydrofuran solution containing 0.3 g of 4,6-dichloropyrimidine was added at 0° C., followed by further stirring at room temperature for 3 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with t-butyl methyl ether. The organic layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.12 g of 4-chloro-6-(cis-2-methylcyclohexyloxy)pyrimidine.

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | cis-2-methylcyclohexanol | 0.28 g | C[C@@H]1[C@@H](CCCC1)O | C7H14O
reactant | 4,6-dichloropyrimidine | 0.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(cis-2-methylcyclohexyloxy)pyrimidine | 0.12 g | ClC1=NC=NC(=C1)O[C@H]1[C@H](CCCC1)C | C11H15ClN2O
